US06518268B1
Preparation of 2-Phenylthio-3-(2,4-dioxothiazolidin-5-ylidene-methyl)quinoline
2-Chloro-3-(2,4-dioxothiazolidin-5-ylidene-methyl)quinoline and thiophenol (1.2 eq) were mixed with ethoxyethanol and heated to reflux under N2 for 2 hours. The reaction mixture was allowed to cool to RT, ether was added and bright-yellow precipitate was filtered off, washed several times with ether, air dried for 24 hrs at RT to give pure product (Yield-36%).

reactant | 2-Chloro-3-(2,4-dioxothiazolidin-5-ylidene-methyl)quinoline | ClC1=NC2=CC=CC=C2C=C1C=C1C(NC(S1)=O)=O | C13H7ClN2O2S
reactant | thiophenol | 1.2 eq | C1(=CC=CC=C1)S | C6H6S
reactant | ethoxyethanol | C(C)OC(C)O | C4H10O2
solvent | ether | CCOCC | C4H10O
product | 2-Phenylthio-3-(2,4-dioxothiazolidin-5-ylidene-methyl)quinoline | Yield-36% | C1(=CC=CC=C1)SC1=NC2=CC=CC=C2C=C1C=C1C(NC(S1)=O)=O | C19H12N2O2S2
